US07863302B2
4-bromo-benzo[b]thiophene-2-carboxylic acid
Potassium hydroxide (415.1 g, 7.40 mol) is added to a stirred solution of 2-bromo-6-fluorobenzaldehyde (1.00 Kg, 4.93 mol) and mercaptoacetic acid (453.8 g, 4.93 mol) in dimethylformamide (5.0 L). The resultant solution is brought to and maintained at reflux (136° C.) for 90 min. The reaction mixture is allowed to cool to room temperature and is quenched by the slow addition of hydrochloric acid (2.25 M, 5.90 L) over 5 min. The mixture is cooled to 10° C., stirred for 1 h and the observed solid material is collected by filtration. The filter cake is washed with water (1.00 L) and hexanes (2.00 L) and dried in vacuo at 40 to 45° C. to constant weight to yield the title compound (990.0 g, 78.2%). 1H NMR (DMSO, d6): δ 13.8 (bs, 1H), 8.10 (d, 1H, J=8.2 Hz), 7.97 (s, 1H), 7.72 (d, 1H, J=7.6 Hz), 7.45 (t, 1H, J=8.0 Hz).

reactant | Potassium hydroxide | 7.40 mol, 415.1 g | [OH-].[K+]
reactant | 2-bromo-6-fluorobenzaldehyde | 4.93 mol, 1.00 Kg | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
reactant | mercaptoacetic acid | 4.93 mol, 453.8 g | SCC(=O)O | C2H4O2S
solvent | dimethylformamide | 5.0 L | CN(C=O)C | C3H7NO
product | 4-bromo-benzo[b]thiophene-2-carboxylic acid | 990.0 g, 78.2% | BrC1=CC=CC=2SC(=CC21)C(=O)O | C9H5BrO2S
